US04992431
Using the procedure of Step A of Example 8, 27.2 g of 7-amino-cephalosporanic acid, 170 ml of the etherate of boron trifluoride, 134 ml of isopropanol and 125 ml of triethylamine were reacted to obtain 16.25 g of raw product which was purified by two successive treatments with hot hydrochloric acid and ammonium hydroxide to obtain 5.8 g of 3-isopropoxymethyl-7-amino-ceph-3-eme-4-carboxylic acid.

reactant | 7-amino-cephalosporanic acid | 27.2 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | isopropanol | 134 ml | C(C)(C)O | C3H8O
solvent | triethylamine | 125 ml | C(C)N(CC)CC | C6H15N
product | 3-isopropoxymethyl-7-amino-ceph-3-eme-4-carboxylic acid | 5.8 g | C(C)(C)OCC=1CS[C@H]2N(C1C(=O)O)C(C2N)=O | C11H16N2O4S
